US05677321
7-Isopropanyl-5-(2-imidazolin-2-ylamino)indole.
A solution of 7-isopropenyl-5-(2-imidazolin-2-ylamino)indole (0.25 g, 1.0 mmol) and 10% Pd/C (100 mg) in 10 mL of MeOH was stirred for 12 h under H2 (18 psi). The reaction mixture was filtered and concentrated in vacuo, yielding an oil which, in NMR analysis, was highly pure and corresponds to the desired product. The product obtained was converted to the succinate salt and recrystallized from isopropanol-CHCl3 to afford 0.13 g of the product as a light brown solid: mp 254°-255° C.; H NMR (CD3OD) δ7.28 (d, J=1.8 Hz, 1H), 7.27 (d, J=3.2 Hz, 1H), 6.82 (d, J=1.8 Hz, 1H), 6.43 (d, J=3.2 Hz, 1H), 3.67 (s, 4H), 3.30 (hep, 1H), 2.18 (s, 3H); Anal. Calc. for C14 H18N4.1.0C4H6O4 requires C, 60.32; H, 6.19; N, 15.63. Found: C, 60.17; H, 6.25; N, 15.59.

reactant | 7-isopropenyl-5-(2-imidazolin-2-ylamino)indole | 1.0 mmol, 0.25 g | C(=C)(C)C=1C=C(C=C2C=CNC12)NC=1NCCN1 | C14H16N4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 7-Isopropanyl-5-(2-imidazolin-2-ylamino)indole | C(C)(C)C=1C=C(C=C2C=CNC12)NC=1NCCN1 | C14H18N4
